US06331556B2
7-Difluoromethoxy-2-methoxymethylbenzofuran-4carboxylic acid (3,5-dimethylisoxazol-4-yl)-amide
Cyanuric chloride (19 mg) and triethylamine (0.05 ml) were added to a stirred solution of 7-difluoromethoxy-2-methoxymethylbenzofuran-4-carboxylic acid (85 mg) in dry dichloromethane at room temperature under a dry nitrogen atmosphere. After stirring for 20 minutes 3,5-dimethylisoxazol-4-ylamine (42 mg) was added and the reaction left overnight. The reaction was mixture was preadsorbed onto silica. Purification by column chromatography on silica eluting with 30% ethyl acetate in hexane gave the title compound as a cream solid (33 mg)

reactant | Cyanuric chloride | 19 mg | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | triethylamine | 0.05 ml | C(C)N(CC)CC | C6H15N
reactant | 7-difluoromethoxy-2-methoxymethylbenzofuran-4-carboxylic acid | 85 mg | FC(OC=1C=CC(=C2C=C(OC21)COC)C(=O)O)F | C12H10F2O5
reactant | 3,5-dimethylisoxazol-4-ylamine | 42 mg | CC1=NOC(=C1N)C | C5H8N2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 7-Difluoromethoxy-2-methoxymethylbenzofuran-4carboxylic acid (3,5-dimethylisoxazol-4-yl)-amide | 33 mg | CC1=NOC(=C1NC(=O)C=1C=CC(=C2C1C=C(O2)COC)OC(F)F)C | C17H16F2N2O5
